US05306819
A mixture of 2-chloro-pyrazino[2,3-b]pyridine (3.35g), isopropanol (20 mL) and concentrated ammonium hydroxide (50 mL) was heated at 115° C. for 17 h in a sealed tube. The tube was cooled and the product was collected and recrystallized from ethanol to afford 2-amino-pyrazino[2,3-b]pyridine as a yellow solid.

reactant | 2-chloro-pyrazino[2,3-b]pyridine | 3.35g | ClC1=NC=2C(=NC=CC2)N=C1 | C7H4ClN3
reactant | ammonium hydroxide | 50 mL | [OH-].[NH4+]
solvent | isopropanol | 20 mL | C(C)(C)O | C3H8O
product | 2-amino-pyrazino[2,3-b]pyridine | NC1=NC=2C(=NC=CC2)N=C1 | C7H6N4
